US04452851
The solution of benzhydryl 7-[2-phenyl-2-tertbutoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.0 g) and anisole (2.0 ml) in trifluoroacetic acid (8 ml) was stirred for 90 minutes at ambient temperature. The resultant solution was evaporated under reduced pressure and the residual oil was dissolved in an aqueous solution of sodium bicarbonate. After the solution was washed with ethyl acetate, the solution was adjusted to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate (100 ml). The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 7-[2-phenyl-2-carboxymethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylic acid (syn isomer, 1.3 g), mp. 103° to 107° C. (dec.).

reactant | benzhydryl 7-[2-phenyl-2-tertbutoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.0 g | C1(=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C36H37N3O6S2
reactant | anisole | 2.0 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[2-phenyl-2-carboxymethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylic acid | 1.3 g | C1(=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)O)C1=O)=NOCC(=O)O | C19H19N3O6S2
